US08349849B2
2-Amino-2-[6-(trans-4-tert-butyl-cyclohexyloxy)-quinolin-2-yl]-propan-1-ol
2-Amino-2-[6-(trans-4-tert-butyl-cyclohexyloxy)-quinolin-2-yl]-propionic acid ethyl ester (18 mg as TFA salt, 0.000035 mol) was dissolved in a mixture of methanol (2.0 mL, Acros) and tetrahydrofuran (2.0 mL, Acros), then sodium tetrahydroborate (3.8 mg, 0.00010 mol, Aldrich) was added. After 2 h, additional sodium tetrahydroborate (8.1 mg, 0.00021 mol, Aldrich) was added. After an additional 2 h, the reaction mixture was quenched with 250 uL of to saturated NH4Cl, and solvents were removed under vacuum. DMSO (½ mL) was added to the residue but it did not completely solubilize. The material was partitioned between methylene chloride and water. The emulsion was broken up by adding saturated sodium chloride and solid sodium chloride. The organics were dried with magnesium sulfate, filtered and evaporated. The residue was purified via preparative HPLC to give pure product (6.3 mg, 38%) as TFA salt. MS: m/z=357.20 [M+H]+. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm: 8.19 (d, J=8.5 Hz, 1H), 7.96 (d, J=9.3 Hz, 1H), 7.39-7.46 (m, 2H), 7.13 (d, J=2.8 Hz, 1H), 4.24-4.36 (m, 1H), 4.12-4.21 (m, 2H), 2.23-2.32 (m, 2H), 1.88-1.96 (m, 2H), 1.78 (s, 3H), 1.41-1.54 (m, 2H), 1.10-1.27 (m, 3H), 0.91 (s, 9H).

reactant | 2-Amino-2-[6-(trans-4-tert-butyl-cyclohexyloxy)-quinolin-2-yl]-propionic acid ethyl ester | 0.000035 mol, 18 mg | C(C)OC(C(C)(C1=NC2=CC=C(C=C2C=C1)O[C@@H]1CC[C@H](CC1)C(C)(C)C)N)=O | C24H34N2O3
reactant | sodium tetrahydroborate | 0.00010 mol, 3.8 mg | [BH4-].[Na+]
reactant | sodium tetrahydroborate | 0.00021 mol, 8.1 mg | [BH4-].[Na+]
solvent | methanol | 2.0 mL | CO | CH4O
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
product | 2-Amino-2-[6-(trans-4-tert-butyl-cyclohexyloxy)-quinolin-2-yl]-propan-1-ol | 6.3 mg, 38% | NC(CO)(C)C1=NC2=CC=C(C=C2C=C1)O[C@@H]1CC[C@H](CC1)C(C)(C)C | C22H32N2O2
